US04189484
2-[4-(2-Methylcinnamoyl)-piperazin-1-yl]-4-amino-6,7-dimethoxyquinazoline
A mixture of 479 mg. of 2-chloro-4-amino-6,7-dimethoxyquinazoline and 461 mg. of 2-methylcinnamoylpiperazine in 10 ml. of isoamyl alcohol was heated under reflux for 4 hours. After ice-cooling, the reaction mixture was filtered and the product thus obtained was washed with ethanol to yield 812 mg. of the desired product as the hydrochloride.

reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | 2-methylcinnamoylpiperazine | CC1=C(C=CC(=O)N2CCNCC2)C=CC=C1 | C14H18N2O
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | 2-[4-(2-Methylcinnamoyl)-piperazin-1-yl]-4-amino-6,7-dimethoxyquinazoline | CC1=C(C=CC(=O)N2CCN(CC2)C2=NC3=CC(=C(C=C3C(=N2)N)OC)OC)C=CC=C1 | C24H27N5O3
